2133-12-30 07:00:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
          Maintained on insulin drip for CCB tox
          Weaning off dopamine (12 max -> 3 this am) with improving
   MAPS
          Continued respiratory distress w/tachypnea
          Blood glucose consistently 50
s -> giving D5
   w/amps of D50 PRN
          A-line placed
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin
   Zosyn
   Infusions:
   Insulin - Regular - 5 units/hour
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-12-30**] 12:00 AM
   Dextrose 50% - [**2133-12-30**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Shortness of breath
   Flowsheet Data as of  [**2133-12-30**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 87 (76 - 97) bpm
   BP: 125/61(87) {89/45(62) - 129/64(135)} mmHg
   RR: 21 (21 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 24 (24 - 27)mmHg
   Total In:
                                                                  5,349 mL
                                                                  1,435 mL
   PO:
   TF:
   IVF:
                                                                    299 mL
                                                                  1,385 mL
   Blood products:
   Total out:
                                                                     55 mL
                                                                    153 mL
   Urine:
                                                                     55 mL
                                                                    153 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,294 mL
                                                                  1,282 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: 7.26/42/80.[**Numeric Identifier 20**]/18/-7 (4am) -> 7.32/38/68/20 (9am)
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: Well nourished, tachypnic, on face mask
   Eyes / Conjunctiva: surgical pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR no murmur appreciated
   Respiratory / Chest: CTA b/l w/poor air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: AAOx3
   Labs / Radiology
   512 K/uL
   8.6 g/dL
   82 mg/dL
   1.8 mg/dL
   18 mEq/L
   5.2 mEq/L
   43 mg/dL
   103 mEq/L
   133 mEq/L
   25.9 %
   31.8 K/uL
        [image002.jpg]
                            [**2133-12-29**]  07:45 PM
                            [**2133-12-29**]  07:49 PM
                            [**2133-12-29**]  11:32 PM
                            [**2133-12-30**]  03:58 AM
                            [**2133-12-30**]  04:07 AM
   WBC
   31.8
   Hct
   27
   25.9
   Plt
   512
   Cr
   1.9
   1.8
   TropT
   0.03
   TCO2
   22
   21
   20
   Glucose
   111
   82
   Other labs:
   PT / PTT / INR:34.8/29.9/3.7, ALT / AST:70/94, Lactic Acid:3.3 mmol/L
   (down from 10.3), LDH:284 IU/L, Ca++:8.3 mg/dL, Mg++:1.2 mg/dL, PO4:4.2
   mg/dL
   Serum tox negative
   U/A negative
   UCx, BCx Pending
   CXR: improved aeration of R lung base with persistent opacity possibly
   reflecting resolving pneumonia.
   Assessment and Plan
   A/P: 81 yo with PMH of asthma, DM2, HTN presenting with bradycardia
   with history of diltiazem overdose, lactic acidosis, and low MAP.
   .
   #1 Bradycardia: likely [**3-14**] diltiazem.  HR improved with dopamin,
   insulin.
   - cont insulin drip with d10 titrated to keep BG above 80, amps of d50
   prn low BG
   - wean dopa as tolerated
   - confir w/tox regarding endpoint for insulin drip
   - calcium gluconate, atropine prn
   - hold nodal blocking agents
   .
   #2 lactic acidosis: possible etiologies include metformin or sepsis.
   Gap nearly normal at 12.  Lactate improved to 3.3.  ABG improved this
   morning.
   - hold metformin
   - see below re: hypotension for sepsis discussion
   - per renal, no dialysis
   .
   #3 hypotension: Low MAPs last night. DDx includes sepsis though no
   clear source, or diltiazem.  Hypothermia argues for infection, as does
   leukocytosis (though there could be contribution from stress).
   Recently had pna which could be a source of sepsis, but it appears to
   be improving by CXR.
   - vanc/zosyn for 48h while determining source for low MAP
   - BCx, UCx, stool cx, sputum Cx follow-up -> can D/C antibiotics if no
   clear source of infection is identified
   - wean dopamine as tolerated
   .
   #4 respiratory distress: She has significant obstructive lung disease,
   not moving air well on exam and subjectively sob.
   - albuterol and ipratroprium standing
   - add inhaled fluticasone
   - start IV solumedrol at 125mg Q8h IV
   - follow ABG, sats if distress worsens
   .
   # Renal failure: likely [**3-14**] to ATN while bradycardic.  Cr is improving.
   - urine lytes
   - follow Cr
   .
   # afib: currently in sinus rhythm
   - holding coumadin as supertherapeutic
   .
   # DM: insulin drip and d10 as above.  holding metformin.  ISS when drip
   is d/c'd.
   .
   # HTN: holding antihypertensives while MAP borderline
   .
   # FEN: reg diet, replete lytes prn
   .
   # PPx: ranitidine, sc heparin, bowel regimen
   .
   # Code: full, discussed with patient and son
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2133-12-29**] 09:12 PM
   18 Gauge - [**2133-12-29**] 09:17 PM
   Arterial Line - [**2133-12-29**] 10:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-12-31 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2133-12-30**] 12:30 PM
   mask ventilation started due to ^WOB
   - insulin & dopa drips stopped
   - CXR with worsening effusions & bibasilar consolidations
   - solumedrol started
   - BiPAP trial, more comfortable, blew off CO2
   - elevated FSBS this am, almost 300; rec
d 1 time dose of insulin
   - this am during exam became acute SOB, anxious, and dropped O2 sat,
   but poor pleth; given nebs, rec
d lasix 10 mg IV, placed on BiPAP.
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2133-12-30**] 02:00 AM
   Piperacillin - [**2133-12-30**] 03:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2133-12-30**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-31**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 123 (81 - 127) bpm
   BP: 128/73(99) {120/54(77) - 154/77(104)} mmHg
   RR: 23 (17 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.1 kg (admission): 80 kg
    CVP: 8 (0 - 23)mmHg
   Total In:
                                                                  2,206 mL
                                                                    103 mL
   PO:
                                                                     75 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,031 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,633 mL
                                                                    950 mL
   Urine:
                                                                  1,633 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    573 mL
                                                                   -847 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 645 (552 - 645) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.41/26/85.[**Numeric Identifier 299**]/19/-5
   Ve: 16.5 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Well nourished, anxious
   Eyes / Conjunctiva: surgical pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR no murmur appreciated
   Respiratory / Chest: Crackles b/l with mild wheezing.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: AAOx3
   Labs / Radiology
   447 K/uL
   8.4 g/dL
   255 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.7 mEq/L
   39 mg/dL
   103 mEq/L
   136 mEq/L
   25.3 %
   32.0 K/uL
        [image002.jpg] gap 14
                            [**2133-12-29**]  07:49 PM
                            [**2133-12-29**]  11:32 PM
                            [**2133-12-30**]  03:58 AM
                            [**2133-12-30**]  04:07 AM
                            [**2133-12-30**]  08:32 AM
                            [**2133-12-30**]  11:44 AM
                            [**2133-12-30**]  01:21 PM
                            [**2133-12-30**]  04:57 PM
                            [**2133-12-30**]  05:14 PM
                            [**2133-12-31**]  03:33 AM
   WBC
   31.8
   32.0
   Hct
   27
   25.9
   25.3
   Plt
   512
   447
   Cr
   1.8
   1.4
   1.4
   TCO2
   22
   21
   20
   20
   20
   19
   17
   Glucose
   82
   50
   127
   149
   162
   255
   Other labs: PT / PTT / INR:28.9/30.6/2.9, ALT / AST:61/66, Alk Phos / T
   Bili:69/0.4, Differential-Neuts:97.4 %, Lymph:2.1 %, Mono:0.4 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, LDH:281 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.3 mg/dL;
   Blood culture growing GPCs
   ABG: 7.40 / 34 / 60 / 22, lactate 1.4, O2 sat 88%; C3 & C4 pending
   CXR: worsening effusions and bibasilar consolidations
   Assessment and Plan
   A/P: 81 yo with PMH of asthma, DM2, HTN presenting with bradycardia
   with history of diltiazem overdose, lactic acidosis, and low MAP.
   .
   # Respiratory distress: Multiple likely contributing etiologies
   currently:
   a) Volume overload / pulmonary edema: evidence for worsening pulmonary
   edema on CXR and rapid improvement on BiPAP
         - diurese with lasix
   b) Asthma
 hx of obstructive lung disease
        - standing albuterol and ipratroprium nebs
        - add inhaled fluticasone
        - IV solumedrol at 125mg Q8h IV
   c) ? Pneumonia
 pt. recently treated with azithromycin & levofloxacin
   for PNA, now with GPCs in blood cultures
        - treat as below
   - follow ABG, sats if distress worsens
   # Bacteremia: Patient with GPCs in [**2-11**] bottles from admission blood
   cultures this morning.  Speciation pending.  Patient with recent
   hospitalizations.  Potential organisms include Clostridial species and
   Listeria.  Patient continues to have significant leukocytosis, although
   now on IV steroids, so this will cloud the picture.
   - Continue Vanc & Zosyn
   - Start Flagyl
   - f/u cultures, fever curve, WBC count
   - daily surveillance cultures
   - check hemolysis labs
   - check blood smear
   # Heart Rate: Initially was bradycardic, likely secondary to diltiazem
   toxicity and decreased renal function.  Is on Atenolol 100, Nifedipine
   60, and Diltiazem 240 daily at home.  All of these meds were held
   initially.  Metoprolol 25 mg started last night and patient was
   tachycardic early this am.
   - increase metoprolol to 50 PO BID
   - Start diltiazem 30 PO QID
   - Continue telemetry monitoring
   # Blood pressure: Initially hypotensive on presentation now
   hypertensive with SBPs in 160s this am, likely due to holding of her
   home antihypertensive medication regimen.  Restarting as above.  Will
   gradually uptitrate given previous medication toxicity and concern for
   infection / possible sepsis based on positive blood culture.
   .
   #2 lactic acidosis: Nearly resolved.  Gap 14.  Possible etiologies
   include metformin or sepsis.  Lactate improved to 1.4.
   - hold metformin
   - treating for bacteremia
   .
   # Renal failure: Resolving, creatinine down to 1.4 from 2.1 on
   admission.  Pre-renal vs. \[**3-14**] to ATN while bradycardic.
   - follow Cr
   .
   # Afib: currently in sinus rhythm
   - coumadin was held as supertherapeutic on admission. 2.9 today, will
   consider restarting
   .
   # DM: Holding metformin & glipizide.  ISS was stopped when drip was
   d/c'd.  Blood sugars are elevated this am, likely secondary to holding
   of PO meds, infection, and steroids.
   - restart insulin sliding scale and uptitrate as appropriate
   ..
   # FEN: reg diet, replete lytes prn
   .
   # PPx: ranitidine, sc heparin, bowel regimen
   .
   # Code: full, discussed with patient and son
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2133-12-29**] 09:12 PM
   18 Gauge - [**2133-12-29**] 09:17 PM
   Arterial Line - [**2133-12-29**] 10:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-12-31 09:26:00 Physician Attending Progress Note
Chief Complaint: respiratory Failure
   Bardyacrdia
   Hypotension
   Acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2133-12-30**] 12:30 PM
   mask ventilation started due to ^WOB
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2133-12-30**] 02:00 AM
   Piperacillin - [**2133-12-30**] 03:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2133-12-31**] 06:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2133-12-31**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 83 (83 - 127) bpm
   BP: 137/68(98) {123/54(77) - 160/112(129)} mmHg
   RR: 20 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.1 kg (admission): 80 kg
   CVP: 7 (0 - 18)mmHg
   Total In:
                                                                  2,206 mL
                                                                    144 mL
   PO:
                                                                     75 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,031 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  1,633 mL
                                                                  1,185 mL
   Urine:
                                                                  1,633 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    573 mL
                                                                 -1,041 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 516 (516 - 645) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.40/34/60/19/-2
   Ve: 6.2 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Wheezes : , Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   447 K/uL
   255 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.7 mEq/L
   39 mg/dL
   103 mEq/L
   136 mEq/L
   25.3 %
   32.0 K/uL
        [image002.jpg]
                            [**2133-12-29**]  11:32 PM
                            [**2133-12-30**]  03:58 AM
                            [**2133-12-30**]  04:07 AM
                            [**2133-12-30**]  08:32 AM
                            [**2133-12-30**]  11:44 AM
                            [**2133-12-30**]  01:21 PM
                            [**2133-12-30**]  04:57 PM
                            [**2133-12-30**]  05:14 PM
                            [**2133-12-31**]  03:33 AM
                            [**2133-12-31**]  06:10 AM
   WBC
   31.8
   32.0
   Hct
   27
   25.9
   25.3
   Plt
   512
   447
   Cr
   1.8
   1.4
   1.4
   TCO2
   21
   20
   20
   20
   19
   17
   22
   Glucose
   82
   50
   127
   149
   162
   255
   Other labs: PT / PTT / INR:28.9/30.6/2.9, CK / CKMB /
   Troponin-T:36//0.03, ALT / AST:61/66, Alk Phos / T Bili:69/0.4,
   Differential-Neuts:97.4 %, Lymph:2.1 %, Mono:0.4 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, LDH:281 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.3
   mg/dL
   Assessment and Plan
   89 yo female with presentation with diltiazem excess and bradycardia
   and hypotension.  This is in the setting of significant respiratory
   distress and need for BIPAP support in the setting of mild persistent
   metabolic acidosis.
   1)Respiratory Failure--patient with clear pattern of increased
   effusions, bilateral pulmonary edema and likely triggered respiratory
   distress wtih tachypnea and possibly some additional gas trapping.
   -BIPAP this morning
   -Diuresis and heart rate control will be essential
   -Continue to move to increased time on
   2)Acidosis-
   -Persistent findings here
   -Gram positive rods seen in blood
   -Vanco/Zosyn/Flagyl
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 ACIDOSIS, METABOLIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 ATRIAL FLUTTER (AFLUTTER)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2133-12-29**] 09:12 PM
   18 Gauge - [**2133-12-29**] 09:17 PM
   Arterial Line - [**2133-12-29**] 10:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2134-01-01 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Renal u/s yesterday
 no hydronephrosis b/l
   -Diltiazem 30mg PO QID and Metoprolol increased to 75mg PO BID
   -Smear and hemolysis labs normal
   -off cpap, on NC
   -BCx from admission ([**12-29**]) w/gram positive rods
   Allergies:
   Ace Inhibitors
   Cough;
   Antibiotics:
   Vancomycin
   Piperacillin
   Metronidazole
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2133-12-31**] 10:49 AM
   Furosemide (Lasix) - [**2133-12-31**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2133-12-31**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: negative
   Flowsheet Data as of  [**2134-1-1**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.3
   HR: 90 (81 - 123) bpm
   BP: 153/78(110) {125/60(85) - 162/88(121)} mmHg
   RR: 18 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.1 kg (admission): 80 kg
    CVP: 12 (3 - 23)mmHg
   Total In:
                                                                    730 mL
                                                                    161 mL
   PO:
                                                                    290 mL
   TF:
   IVF:
                                                                    440 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                    240 mL
   Urine:
                                                                  2,765 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,035 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 2L
   PO2: 95-98%
   Physical Examination
   General Appearance: well appearing, in no acute distress
   Eyes / Conjunctiva: surgical pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR no murmur appreciated
   Respiratory / Chest: mild wheezing b/l
   Abdominal: Soft, Non-tender, Bowel sounds present, not Distended, nttp
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: AAOx3
   Labs / Radiology
   407 K/uL
   8.0 g/dL
   243 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.4 mEq/L
   47 mg/dL
   105 mEq/L
   138 mEq/L
   23.9 %
   18.0 K/uL
        [image002.jpg]
                            [**2133-12-30**]  04:07 AM
                            [**2133-12-30**]  08:32 AM
                            [**2133-12-30**]  11:44 AM
                            [**2133-12-30**]  01:21 PM
                            [**2133-12-30**]  04:57 PM
                            [**2133-12-30**]  05:14 PM
                            [**2133-12-31**]  03:33 AM
                            [**2133-12-31**]  06:10 AM
                            [**2133-12-31**]  03:05 PM
                            [**2134-1-1**]  03:20 AM
   WBC
   32.0
   18.0
   Hct
   25.3
   23.9
   Plt
   447
   407
   Cr
   1.4
   1.4
   1.4
   1.5
   TCO2
   20
   20
   20
   19
   17
   22
   Glucose
   50
   127
   149
   162
   255
   188
   243
   Other labs:
   PT / PTT / INR:27.6/29.2/2.8
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   ALT: 61 ([**12-31**]) -> 58;  AST: 58 ([**12-31**]) -> 44; LDH: 262 ([**12-31**]) -> 241
   Micro: BCx [**12-29**]: GPR, no further speciation; BCx [**12-31**], [**1-1**] pending;
   Cdiff [**12-31**] negative, [**1-1**] pending
   Hemolysis labs: Haptoglobin 302, LDH 262, BiliT 0.3, BiliD 0.1, BiliI
   0.2
   Assessment and Plan
   A/P: 81 yo with PMH of asthma, DM2, HTN presenting with bradycardia
   with history of diltiazem overdose, lactic acidosis, and low MAP.
   .
   #1 Respiratory distress: Multiple likely contributing etiologies
   including copd, volume overload, and pneumonia.  Today MUCH improved.
   Patient
s O2 saturation in high 90
s on 2L nasal canula (yesterday and
   day before was tachypnic and requiring bipap)
   a) Volume overload / pulmonary edema due to bradycardic CHF due to ccb
   overdose: evidence for worsening pulmonary edema on CXR and rapid
   improvement on BiPAP
         - diurese with Lasix
         - treat ccb overdose to restore normal cardiac output
   b) obstructive lung disease: less likely contributory considering
   respiratory alkalosis at presentation. Initially added solumedrol as
   patient had just finished prednisone taper, but now ok to d/c steroids
   as most likely etiology is pulmonary edema
        - standing albuterol and ipratroprium nebs
        - add inhaled fluticasone
        - d/c IV solumedrol at 125mg Q8h IV
   c) ? Pneumonia
 pt. recently treated with azithromycin & levofloxacin
   for PNA, now with GPCs in blood cultures
        - treat w/vancomycin, flagyl, and zosyn until GPR is speciated.
        - follow ABG, sats if distress worsens
   #2 Bacteremia: Patient with GPCs in [**2-11**] bottles from admission blood
   cultures yesterday.  Speciation pending.  Patient with recent
   hospitalizations.  Potential organisms include Clostridial species and
   Listeria.  Patient continues to have significant leukocytosis, although
   that has improved.  On IV steroids, so this could contribute.
   Hemolysis labs negative and blood smear was normal which is evidence
   against Clostridium bacteremia.
   - Continue Vanc, Zosyn, Flagyl
   - f/u cultures, speciation of GPR
   - daily surveillance cultures
   #3 Heart Rate: Initially was bradycardic, likely secondary to diltiazem
   toxicity and decreased renal function.  Is on Atenolol 100, Nifedipine
   60, and Diltiazem 240 SR daily at home.  All of these meds were held
   initially.  Metoprolol 25 mg started last night and patient was
   tachycardic early this am.
   - increase metoprolol to 50 PO BID
   - Start diltiazem 30 PO QID
   - Continue telemetry monitoring
   #4 Blood pressure: Initially hypotensive on presentation now
   hypertensive with SBPs in 160s this am, likely combination of holding
   of home antihypertensive medication regimen and IV steroids.
   Restarting as above.
   - d/c steroids
   - Will gradually uptitrate HTN meds given previous medication toxicity
   and possible contribution of steroids
   .
   # lactic acidosis: resolved.  Gap 14.  Possible etiologies include
   metformin or sepsis.  Lactate improved.
   - hold metformin
 patient should NOT receive metformin for DM control.
   - treating for bacteremia
   .
   # Renal failure: Resolving, creatinine down to 1.5 from 2.1 on
   admission.
   -          Renal u/s negative
   -          Follow Cr
   .
   # Afib: currently in sinus rhythm
   - coumadin was held as supertherapeutic on admission. 2.8 today, will
   restart at low dose (2mg).
   .
   # DM: Holding metformin.  ISS was started when drip was d/c'd.  Blood
   sugars are elevated again this am, likely secondary to holding of PO
   meds and steroids.
   -          re-start glipizide
   -          d/c steroids
   -          to re-assess ISS needs tomorrow and adjust meds as
   appropriate
   ..
   # FEN: reg diet, replete lytes prn
   .
   # PPx: famotidine, bowel regimen, d/c heparin sc
   .
   # Code: full, discussed with patient and son
   .
   # Dispo: appropriate for call-out to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2133-12-29**] 09:12 PM
   Arterial Line - [**2133-12-29**] 10:52 PM
   22 Gauge - [**2133-12-31**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-01-01 12:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diltiazem dosing increased
   Patient with no evidence of hemolysis, patient afebrile
   Steroids D/C'd
   24 Hour Events:
 ULTRASOUND - At [**2133-12-31**] 09:45 AM
   renal
 BLOOD CULTURED - At [**2133-12-31**] 09:45 AM
   cvl
 BLOOD CULTURED - At [**2133-12-31**] 10:50 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2133-12-30**] 02:00 AM
   Metronidazole - [**2134-1-1**] 04:37 AM
   Piperacillin - [**2134-1-1**] 09:58 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-12-31**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-1-1**] 08:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2134-1-1**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 103 (81 - 110) bpm
   BP: 152/82(112) {125/60(85) - 171/95(127)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.1 kg (admission): 80 kg
   CVP: 11 (3 - 23)mmHg
   Total In:
                                                                    730 mL
                                                                    318 mL
   PO:
                                                                    290 mL
   TF:
   IVF:
                                                                    440 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                    415 mL
   Urine:
                                                                  2,765 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,035 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   407 K/uL
   243 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.4 mEq/L
   47 mg/dL
   105 mEq/L
   138 mEq/L
   23.9 %
   18.0 K/uL
        [image002.jpg]
                            [**2133-12-30**]  04:07 AM
                            [**2133-12-30**]  08:32 AM
                            [**2133-12-30**]  11:44 AM
                            [**2133-12-30**]  01:21 PM
                            [**2133-12-30**]  04:57 PM
                            [**2133-12-30**]  05:14 PM
                            [**2133-12-31**]  03:33 AM
                            [**2133-12-31**]  06:10 AM
                            [**2133-12-31**]  03:05 PM
                            [**2134-1-1**]  03:20 AM
   WBC
   32.0
   18.0
   Hct
   25.3
   23.9
   Plt
   447
   407
   Cr
   1.4
   1.4
   1.4
   1.5
   TCO2
   20
   20
   20
   19
   17
   22
   Glucose
   50
   127
   149
   162
   255
   188
   243
   Other labs: PT / PTT / INR:27.6/29.2/2.8, CK / CKMB /
   Troponin-T:36//0.03, ALT / AST:58/44, Alk Phos / T Bili:64/0.2,
   Differential-Neuts:97.4 %, Lymph:2.1 %, Mono:0.4 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, LDH:241 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Microbiology: Blood Cultures--
   [**12-31**] and [**1-1**]--no growth to date
   Assessment and Plan
   81 yo female admit to ICU with respiratory failure with an evolution
   over time of clearly having signficiant and intermittent pulmonary
   edema noted.
   RESPIRATORY FAILURE
This is quite clearly related to intermittent
   pulmonary edema.  This edema may well trigger bronchospasm and
   worsening respiratory distress but with the rapid resolution and
   findings on CXR of edema without hyperinflation is consistent with
   this.
   -Maintain BIPAP overnight
   -Continue with rate pressure product control and minimize afterload
   -Will also need to keep the heart rate stable with Diltiazem
   -Will D/C systemic steroids given rapid resolution of respiratory
   distress/respiratory alkalosis
   -Return to baseline steroid dosing for chronic support
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   -Continue with Vanco/Zosyn/Flagyl as positive blood cultures present
   -Will continue until final cultures have returned
   -This is atypical picture for sepsis but we had hypotension, lactic
   acidosis, Dopamine requirement upon admission is all consistent and on
   antibiotics we have had improvement and evidence of resolution of
   Sepsis and will await final speciation of organisms for determination
   of final course.
 ACIDOSIS, METABOLIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
   -Zosyn/Flagyl
 ATRIAL FLUTTER (AFLUTTER)
   -Dilt 30mg tid to rate control
and will titrate up to maintain
   stability of rate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2133-12-29**] 09:12 PM
   Arterial Line - [**2133-12-29**] 10:52 PM
   22 Gauge - [**2133-12-31**] 08:00 AM
   Prophylaxis:
   DVT: OOB to chair
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition : To floor
   Total time spent: 35